US07435735B2
Step 5: Ethyl 2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate
A mixture of 1-(4-fluorobenzyl)piperazin-2-one (10.0 g, 48.0 mmol) and diethyl ethoxymethylenemalonate (10.9 g, 50.4 mmol) in toluene (250 mL) was heated in a sealed tube at 80° C. for 4 hours. The resultant mixture was concentrated under vacuum. The residue was dissolved in anhydrous DMF (350 mL), cooled to 0° C. under an atmosphere of nitrogen, and treated with a solution of lithium bis(trimethylsilyl)amide in THF (1 M, 57.4 mL, 57.4 mmol). The reaction mixture was stirred at room temperature overnight and concentrated under vacuum. The residue was partitioned between ethyl acetate and dilute aqueous HCl. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was triturated with diethyl ether, and the solid precipitated was filtered to provide the title compound.

reactant | 1-(4-fluorobenzyl)piperazin-2-one | 48.0 mmol, 10.0 g | FC1=CC=C(CN2C(CNCC2)=O)C=C1 | C11H13FN2O
reactant | diethyl ethoxymethylenemalonate | 50.4 mmol, 10.9 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 57.4 mmol, 1 M, 57.4 mL | C1CCOC1 | C4H8O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | FC1=CC=C(CN2C(C=3N(CC2)C=C(C3O)C(=O)OCC)=O)C=C1 | C17H17FN2O4
